US04016148
In a manner analogous to Example 13(a) starting from 64.0 g of the N-hydroxysuccinimide ester of N-benzyloxycarbonyl-L-alanine and 35.1 g of dimethyl aminomethylphosphonate hydrochloride, there were obtained 73.3 g of dimethyl [(N-benzyloxycarbonyl-L-alanyl)amino] -methylphosphonate as an oil. This oil was refluxed in a mixture of 200 ml of trimethylchlorosilane and 100 ml of acetonitrile under exclusion of moisture for 100 hours. The mixture was then cooled, filtered and evaporated in vacuo on a rotary evaporator. The residue was re-evaporated several times with toluene. The final residue was dissolved in 250 ml of dioxane and treated with 25 ml of water. Crystallization began after several minutes and this was completed by storing overnight. The separated solid was filtered off, washed with ethyl acetate and dried in vacuo. There were obtained 29.0 g of solid of melting point 147°-148° C (decomposition). A further 28.0 g of solid of the same melting point were obtained by concentration of the mother liquors and treatment with ethyl acetate. The combined solids were recrystallized by dissolving in 1.5 parts by volume of tepid methanol, filtering and then adding 15 parts by volume of ethyl acetate to the filtrate. There were obtained 39.5 g of pure [(N-benzyloxycarbonyl-L-alanyl)amino] -methylphosphonic acid of melting point 153°-155° C (decomposition); [α]D20 = - 28.9° (c = 1% in water).

reactant | N-benzyloxycarbonyl-L-alanine | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | dimethyl aminomethylphosphonate hydrochloride | 35.1 g | Cl.NCP(OC)(OC)=O
product | dimethyl [(N-benzyloxycarbonyl-L-alanyl)amino] -methylphosphonate | 73.3 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)NCP(OC)(OC)=O | C14H21N2O6P
